US05864039
Thiophenol (3 g), potassium carbonate (5.64 g) and 1,6-dibromohexane (6.64 g) were reacted and treated in the same manner as in Preparation Example 99 to give 7.4 g of 6-phenylthiohexyl bromide.

reactant | Thiophenol | 3 g | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 5.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,6-dibromohexane | 6.64 g | BrCCCCCCBr | C6H12Br2
product | 6-phenylthiohexyl bromide | 7.4 g | C1(=CC=CC=C1)SCCCCCCBr | C12H17BrS
